US06977262B2
6-(1-Acetylpiperidin-4-yl)-4-(2,1,3-benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine
To a solution of ethyl isonipecotate (8.0 g) in THF (100 mL) was added triethylamine (5.7 g), dimethylaminopyridine (0.6 g) and acetyl chloride (4.4 g) at 0° C. and the mixture was stirred for an hour. The mixture was extracted with ethyl acetate and the solvent was evaporated under reduced pressure to give ethyl 1-acetylpiperidine-4-carboxylate (10 g) as a colorless oil. To a solution of acetonitrile (2.5 g) in THF (300 mL) was added n-BuLi (57 mmol) at −78° C. Further, ethyl 1-acetylpiperidine-4-carboxylate (10 g) was added and the mixture was stirred for an hour. After acidification with hydrochloric acid, the mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (10:1)) to give 1-(1-acetylpiperidin-4-yl)-2-cyanoethan-1-one (7.5 g) as a colorless oil. A solution of 2,1,3-benzoxadiazole-4-aldehyde (0.3 g), 3-aminopyrazole (0.17 g) and 1-(1-acetylpiperidin-4-yl)-2-cyanoethan-1-one (0.4 g) in acetonitrile (10 mL) was heated under reflux overnight. The reaction mixture was cooled to room temperature, and the precipitated crystals were collected by filtration to give the title compound (0.49 g) as yellow crystals.

reactant | 2,1,3-benzoxadiazole-4-aldehyde | 0.3 g | N=1ON=C2C1C=CC=C2C=O | C7H4N2O2
reactant | 3-aminopyrazole | 0.17 g | NC1=NNC=C1 | C3H5N3
reactant | 1-(1-acetylpiperidin-4-yl)-2-cyanoethan-1-one | 0.4 g | C(C)(=O)N1CCC(CC1)C(CC#N)=O | C10H14N2O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-(1-Acetylpiperidin-4-yl)-4-(2,1,3-benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | 0.49 g | C(C)(=O)N1CCC(CC1)C1=C(C(C=2C(N1)=NNC2)C2=CC=CC1=NON=C12)C#N | C20H19N7O2
